US04316815
1-Phenyl-3,5-dimethyl-4-acetyl pyrazole (Chem. Abs. 63, 16332) (53 g) was dissolved in absolute ethanol (120 ml) and cooled to 7° C. Isopropyl nitrite (29.3 g) was added followed by a solution of sodium (5.7 g) in absolute ethanol (110 ml). The mixture was stirred 18 hours at 0°-10° C. and the fawn coloured sodium salt of the oxime filtered and washed with acetone (25 ml). The filter cake was then dissolved in water (40 ml) and the solution acidified with acetic acid (7 ml). The mixture was then extracted with chloroform (200 ml) and the chloroform extract dried over anhydrous sodium sulphate and then concentrated under vacuum to give 1-phenyl-3,5-dimethyl-4-(2'-oximino acetyl)-pyrazole as a yellow coloured solid.

reactant | 1-Phenyl-3,5-dimethyl-4-acetyl pyrazole | 53 g | C1(=CC=CC=C1)N1N=C(C(=C1C)C(C)=O)C | C13H14N2O
reactant | Isopropyl nitrite | 29.3 g | N(=O)OC(C)C | C3H7NO2
reactant | sodium | 5.7 g | [Na] | Na
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | ethanol | 110 ml | C(C)O | C2H6O
product | 1-phenyl-3,5-dimethyl-4-(2'-oximino acetyl)-pyrazole | C1(=CC=CC=C1)N1N=C(C(=C1C)C(C=NO)=O)C | C13H13N3O2
